US05084463
Step 3) Preparation of 1-(4-Nitrophenoxy)-3-iodopropane
To a stirring solution of 4-nitrophenol (10.0 g, 71.94 mmol) in tetrahydrofuran (100 mL) at 0° C. was added triphenylphosphine (22.6 g, 86.33 mmol), 3-iodopropanol (16.73 g, 89.93 mmol), and diethylazodicarboxylate (14.3 mL, 86.33 mmol). The resulting mixture was stirred at 25° C. overnight. The mixture was partitioned between brine and ethyl acetate. The organic phase was dried and concentrated. The residue was triturated with 8:1 ether/ethyl acetate to induce the precipitation of 22 g of triphenylphosphine oxide which was separated by filtration. The filtrate was preabsorbed onto silica gel and flash-chromatographed (5:1 hexane/ethyl acetate) to afford 17.5 g (79%) of white solid product.

reactant | 4-nitrophenol | 71.94 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triphenylphosphine | 86.33 mmol, 22.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-iodopropanol | 89.93 mmol, 16.73 g | ICCCO | C3H7IO
reactant | diethylazodicarboxylate | 86.33 mmol, 14.3 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(4-Nitrophenoxy)-3-iodopropane | 17.5 g, 79% | [N+](=O)([O-])C1=CC=C(OCCCI)C=C1 | C9H10INO3
